US08536179B2
b) Methyl 6-bromo-1H-indole-4-carboxylate
To a stirred solution of 5-bromo-2-methyl-3-nitro-benzoic acid (140 g, 538.4 mmol) in DMF (550 ml) was added DMF-DMA (599 mL, 4846 mmol) at room temperature. The reaction mixture was stirred at 115° C. for 18 h. The reaction mixture was then concentrated in vacuo. The residual contents (176 g, 536.5 mmol) were dissolved in acetic acid (696 mL) and added to a suspension of iron (329.2 g, 5902 mmol) in acetic acid (1.4 L) at 50° C. After completion of addition, the reaction mixture was stirred at 80-90° C. for 4 h. The reaction mixture was then filtered through a Celite pad. The filtrate was poured onto ice water (1 L) and extracted with diethyl ether (3×700 ml). The combined organic layers were washed with sat NaHCO3, brine, and dried over anhydrous Na2SO4, filtered, and evaporated under vacuum. The crude product was purified by silica gel chromatography (eluent: 10% ethyl acetate in pet ether) and afforded the title compound as a solid (80 g, 59%). 1H NMR (DMSO-d6, 400 MHz) δ: 3.980 (s, 3H), 7.168 (d, J=3.2 Hz, 1H), 7.334 (d, J=3.2 Hz, 1H), 7.734 (s, 1H), 8.017 (s, 1H), 8.384 (brs, 1H); LCMS (ES−) m/z=251.9 (M−H).

reactant | 5-bromo-2-methyl-3-nitro-benzoic acid | 538.4 mmol, 140 g | BrC=1C=C(C(=C(C(=O)O)C1)C)[N+](=O)[O-] | C8H6BrNO4
reactant | DMF-DMA | 4846 mmol, 599 mL | CN(C)C(OC)OC | C5H13NO2
reactant | DMF | 550 ml | CN(C)C=O | C3H7NO
solvent | acetic acid | 1.4 L | C(C)(=O)O | C2H4O2
catalyst | iron | 5902 mmol, 329.2 g | [Fe] | Fe
product | Methyl 6-bromo-1H-indole-4-carboxylate | 80 g, 59% | BrC=1C=C(C=2C=CNC2C1)C(=O)OC | C10H8BrNO2
